US08168666B2
a) Preparation of 2-(4-hydroxy-3-nitro-5-propylphenyl)-1,1,1,3,3,3-hexafluoro-2-propanol
Concentrated sulfuric acid (1.2 mL) was added to 2-(4-hydroxy-3-propylphenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (500 mg, 1.65 mmol) under ice-cooling. Then, a mixed solution of nitric acid (109 μL) and concentrated sulfuric acid (219 μL) was added dropwise at 30 to 35° C., followed by stirring at 40° C. for three hours. The reaction solution was cooled and then added dropwise to ice water. After neutralization to pH 7 with a sodium hydroxide solution (1 mol/L), the neutralized solution was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain 94.3 mg of the title compound (yield: 16%) as a red orange oil.

reactant | sulfuric acid | 1.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-hydroxy-3-propylphenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 1.65 mmol, 500 mg | OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC | C12H12F6O2
reactant | sulfuric acid | 219 μL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 109 μL | [N+](=O)(O)[O-] | HNO3
product | 2-(4-hydroxy-3-nitro-5-propylphenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 94.3 mg, yield: 16% | OC1=C(C=C(C=C1CCC)C(C(F)(F)F)(C(F)(F)F)O)[N+](=O)[O-] | C12H11F6NO4
